US07405210B2
Preparation 68: 4-Methoxypiperidine hydrochloride
To a solution of 4-methoxypiperidine-1-carboxylic acid tert-butyl ester (Preparation 67, 1.58 g, 7.34 mmol) in methanol (20 mL) was added hydrochloric acid in 1,4-dioxane (4M, 10 mL) and the mixture stirred for 3 h at rt. Concentration in vacuo gave an oil which was redissolved in water (100 mL). The aqueous layer was washed with ethyl acetate (2×30 mL) and concentrated to give the title compound as colourless solid. δH (D2O): 1.80, 2.14 (4H, 2m), 3.13 (2H, m), 3.38 (2H, m), 3.40 (3H, s), 3.68 (m, 1H).

reactant | 4-methoxypiperidine-1-carboxylic acid tert-butyl ester | 7.34 mmol, 1.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC | C11H21NO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | 1,4-dioxane | 4M, 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 4-Methoxypiperidine hydrochloride | Cl.COC1CCNCC1 | InChI=1S/C6H13NO.ClH/c1-8-6-2-4-7-5-3-6;/h6-7H,2-5H2,1H3;1H
